US05753682
A mixture of 2-methylimidazole (50 g, 0.6 mol), ethyl 4-fluorobenzoate (100 g, 0.6 mol) and potassium carbonate (415 g, 3 mol) in dry DMSO (1.5 l) was heated at 120° C. for 66 hours under a nitrogen atmosphere. After cooling to room temperature, the reaction mixture was poured into ice-cold water (1 l), and extracted with Et2O (750 ml×2). The organic phase was washed with water (500 ml) and brine (500 ml), dried (MgSO4) and evaporated. The residual solid was recrystallized from ethyl acetate-hexane to give ethyl 4-(2-methylimidazol-1-yl)benzoate (47 g, 33%) as yellow needles.

reactant | 2-methylimidazole | 0.6 mol, 50 g | CC=1NC=CN1 | C4H6N2
reactant | ethyl 4-fluorobenzoate | 0.6 mol, 100 g | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | potassium carbonate | 3 mol, 415 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 1.5 l | CS(=O)C | C2H6OS
product | ethyl 4-(2-methylimidazol-1-yl)benzoate | 47 g, 33% | CC=1N(C=CN1)C1=CC=C(C(=O)OCC)C=C1 | C13H14N2O2
